US05720899
A mixture of (3-fluoropropyl)triphenylphosphonium bromide (6.9 g, 17.1 millimols) with THF (40 ml) was cooled down to -20° C., followed by adding t-BuOK (1.9 g, 17.1 millimols) to the mixture, stirring the mixture for 30 minutes, dropwise adding to the mixture, a THF (30 ml) solution of trans-4-(trans-4-pentylcyclohexyl)cyclohexanecarbaldehyde (4.1 g, 15.5 millimols) so as to keep the temperature at -20° C., stirring the mixture at the same temperature for 2 hours, and treating the reaction product in the same manner as in Example 1, except that the quantity of ethyl acetate used for extraction was made 150 ml, to obtain raw trans-(trans-4-(4-fluorobutenyl)cyclohexyl)-4-pentylcyclohexane (4.2 g).

reactant | (3-fluoropropyl)triphenylphosphonium bromide | 17.1 millimols, 6.9 g | [Br-].FCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | t-BuOK | 17.1 millimols, 1.9 g | CC(C)(C)[O-].[K+]
reactant | trans-4-(trans-4-pentylcyclohexyl)cyclohexanecarbaldehyde | 15.5 millimols, 4.1 g | C(CCCC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C=O | C18H32O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | trans-(trans-4-(4-fluorobutenyl)cyclohexyl)-4-pentylcyclohexane | 4.2 g | FCCC=C[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCCCC | C21H37F
